US07468375B2
Step 3: 1-(4-Fluorobenzyl)-N-hydroxy-N-propyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide.
The title compound was prepared by coupling of 1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid with N-propyl hydroxylamine hydrochloride in a manner similar to step 8 of example 1. 1H NMR (DMSO-d6) δ ppm 11.93 (br s, 1H), 8.88 (s, 1H), 7.99 (s, 1H), 7.88 (d, 1H, J=3.0 Hz), 7.34 (m, 2H), 7.15 (d, 2H, J=8.8 Hz), 6.69 (d, 1H, J=3.0 Hz), 5.56 (s, 2H), 3.66 (t, 2H, J=7.1 Hz), 1.64 (m, 2H), 0.83 (s, 3H). LCMS (API-ES, M+H+): 328.1. HRMS calcd for C18H19FN3O2 (M+H) 328.1456, found 328.1458. HPLC: 100% purity.

reactant | 1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | FC1=CC=C(CN2C=CC=3C2=CN=C(C3)C(=O)O)C=C1 | C15H11FN2O2
reactant | N-propyl hydroxylamine hydrochloride | Cl.C(CC)NO
product | 1-(4-Fluorobenzyl)-N-hydroxy-N-propyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | FC1=CC=C(CN2C=CC=3C2=CN=C(C3)C(=O)N(CCC)O)C=C1 | C18H18FN3O2
